US08563575B2
A mixture of tert-butyl (2-chloro-4-methylpyridin-3-yl)carbamate (2.00 g), 4-(benzyloxy)aniline hydrochloride (2.91 g), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (381 mg), sodium t-butoxide (1.90 g) and Pd2(dba)3 (302 mg) in 2-propanol (6 mL) and toluene (24 mL) was stirred at 100° C. under N2 atmosphere for 24 h. The reaction mixture was concentrated in vacuo. The residue was dissolved in MeOH, and the precipitate was removed by filtration. The filtrate was concentrated and the residue was purified by column chromatography (NH silica gel, eluted with 15%-50% AcOEt in hexane) to give 3-[4-(benzyloxy)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (988 mg) as a colorless solid.

reactant | tert-butyl (2-chloro-4-methylpyridin-3-yl)carbamate | 2.00 g | ClC1=NC=CC(=C1NC(OC(C)(C)C)=O)C | C11H15ClN2O2
reactant | 4-(benzyloxy)aniline hydrochloride | 2.91 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 381 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | sodium t-butoxide | 1.90 g | CC(C)([O-])C.[Na+]
solvent | 2-propanol | 6 mL | CC(C)O | C3H8O
solvent | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 302 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[4-(benzyloxy)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 988 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=CC2C)=O | C20H17N3O2
